US05248831
140 g of ethyl 2-(cyclohexyloxyacetyl)-4-pentenoate are heated under reflux in 650 g of 5% strength aqueous sodium hydroxide solution for 4 hours. 500 ml of ether are added to the reaction mixture. The organic phase is separated off and concentrated and the residue is distilled. About 60 g of 1-cyclohexyloxy-hex-5-en-2-one are obtained. (Temperature (bottom)=115°-155° C., temperature (top)=83° C.; 0.8 mbar).

reactant | ethyl 2-(cyclohexyloxyacetyl)-4-pentenoate | 140 g | C1(CCCCC1)OCC(=O)C(C(=O)OCC)CC=C | C15H24O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-cyclohexyloxy-hex-5-en-2-one | 60 g | C1(CCCCC1)OCC(CCC=C)=O | C12H20O2
